US08877778B2
A stirred mixture of 4-(4-benzofuranyl)-1,2,3,6-tetrahydro-pyridine hydrochloride [CAS-No. 158984-66-8] (2.05 g, 8.7 mmol), prepared from commercially available 4-bromo-benzofurane [CAS-No. 128868-60-0] and commercially available tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate, palladium on carbon (10%, 0.46 g, 0.44 mmol), ammonium formate (2.74 g, 43.5 mmol) and MeOH (79 ml) was heated at reflux conditions for 1 h, cooled to RT, filtrated and evaporated. Saturated sodium bicarbonate solution (50 ml) was added to the residue, and the inorganic layer was extracted with dichloromethane (2×40 ml). The combined organic layers were washed with brine (40 ml), dried (MgSO4) and evaporated to yield 4-(4-benzofuranyl)-piperidine as a colorless oil (1.65 g, 94%), MS (ISP) m/z=202.3 [(M+H)+].

reactant | 4-(4-benzofuranyl)-1,2,3,6-tetrahydro-pyridine hydrochloride | 8.7 mmol, 2.05 g | Cl.O1C=CC2=C1C=CC=C2C=2CCNCC2
reactant | 4-bromo-benzofurane | BrC1=CC=CC2=C1C=CO2 | C8H5BrO
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | ammonium formate | 43.5 mmol, 2.74 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.44 mmol, 0.46 g | [Pd] | Pd
solvent | MeOH | 79 ml | CO | CH4O
product | 4-(4-benzofuranyl)-piperidine | 1.65 g, 94% | O1C=CC2=C1C=CC=C2C2CCNCC2 | C13H15NO
